US08242129B2
(E)-5-(3-(2-Chlorophenyl)acryloyl)thiophene-2-carboxylic acid
Commercially available 5-acetylthiophene-2-carboxylic acid (1.0 g, 5.9 mmol) and commercially available 2-chlorobenzaldehyde (670 uL, 5.9 mmol) were dissolved in 30 mL of methanol. The solution was cooled in an ice bath and solid sodium hydroxide (940 mg, 23.5 mmol) was added. The cold bath was removed and the reaction was stirred for 2 hours at room temperature. The reaction was then heated at 50° C. for another 2 hours. Concentrated HCl was added to lower the pH to 3. The reaction was filtered, washed with water and air dried to give 1.5 g of product. MS (EI) for C14H9ClO3S: 292 (MH+).

reactant | 5-acetylthiophene-2-carboxylic acid | 5.9 mmol, 1.0 g | C(C)(=O)C1=CC=C(S1)C(=O)O | C7H6O3S
reactant | 2-chlorobenzaldehyde | 5.9 mmol, 670 uL | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | sodium hydroxide | 23.5 mmol, 940 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E)-5-(3-(2-Chlorophenyl)acryloyl)thiophene-2-carboxylic acid | 1.5 g | ClC1=C(C=CC=C1)/C=C/C(=O)C1=CC=C(S1)C(=O)O | C14H9ClO3S
